US08071624B2
(3S)-1-(Phenylsulfonyl)-N-[4-(pyridin-4-yloxy)cyclohexyl]piperidine-3-carboxamide
Under a nitrogen atmosphere, to a mixture of (3S)-N-(trans-4-hydroxycyclohexyl)-1-(phenylsulfonyl)piperidine-3-carboxamide (25 mg, 0.068 mmol), 4-pyridinol (9.7 mg, 0.10 mmol), and triphenylphosphine (26.8 mg, 0.10 mmol) in tetrahydrofuran (0.5 mL) was added a solution of diethyl azodicarboxylate (16 μL, 0.10 mmol) in tetrahydrofuran (0.1 mL). The mixture was stirred at r.t. overnight. The product was purified with prep. HPLC. 1.9 mg product was obtained, yield: 6.3%. LCMS: m/z 444.2 (M+H)+; 887.2 (2M+Na)+.

reactant | (3S)-N-(trans-4-hydroxycyclohexyl)-1-(phenylsulfonyl)piperidine-3-carboxamide | 0.068 mmol, 25 mg | O[C@@H]1CC[C@H](CC1)NC(=O)[C@@H]1CN(CCC1)S(=O)(=O)C1=CC=CC=C1 | C18H26N2O4S
reactant | 4-pyridinol | 0.10 mmol, 9.7 mg | N1=CC=C(C=C1)O | C5H5NO
reactant | triphenylphosphine | 0.10 mmol, 26.8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.10 mmol, 16 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.1 mL | O1CCCC1 | C4H8O
product | (3S)-1-(Phenylsulfonyl)-N-[4-(pyridin-4-yloxy)cyclohexyl]piperidine-3-carboxamide | 1.9 mg, yield: 6.3% | C1(=CC=CC=C1)S(=O)(=O)N1C[C@H](CCC1)C(=O)NC1CCC(CC1)OC1=CC=NC=C1 | C23H29N3O4S
